US07858632B2
The benzamidination carried out in this step follows the procedure reported by Meyer et al., Synthesis 2003, 6, pp. 899-905. To a stirred mixture of hydroxylamine hydrochloride (0.099 g, 1.43 mmol) and sodium hydrogen carbonate (0.119 g, 1.42 mmol) in ethanol (1.4 ml) and water (0.3 ml) was added 5-(2,4-diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzonitrile (0.385 g, 1.29 mmol) and the mixture heated at reflux for 5 hours. A second portion of hydroxylamine hydrochloride (0.049 g, 0.71 mmol) and sodium hydrogen carbonate (0.060 g, 0.71 mmol) was added. After a further 2 hours the mixture was cooled, concentrated in vacuo, then diluted with water (10 ml) and extracted with ethyl acetate. The combined organic extracts were washed with brine then dried (MgSO4), filtered and concentrated in vacuo to yield 5-(2,4-diamino-pyrimidin-5-yloxy)-N-hydroxy4-isopropyl-2-methoxy-benzamidine (355 mg) as a yellow foam. This material was used directly without further purification.

reactant | hydroxylamine hydrochloride | 1.43 mmol, 0.099 g | Cl.NO
reactant | sodium hydrogen carbonate | 1.42 mmol, 0.119 g | C(O)([O-])=O.[Na+]
reactant | 5-(2,4-diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzonitrile | 1.29 mmol, 0.385 g | NC1=NC=C(C(=N1)N)OC=1C(=CC(=C(C#N)C1)OC)C(C)C | C15H17N5O2
reactant | hydroxylamine hydrochloride | 0.71 mmol, 0.049 g | Cl.NO
reactant | sodium hydrogen carbonate | 0.71 mmol, 0.060 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 1.4 ml | C(C)O | C2H6O
solvent | water | 0.3 ml | O | H2O
product | 5-(2,4-diamino-pyrimidin-5-yloxy)-N-hydroxy4-isopropyl-2-methoxy-benzamidine | 355 mg | NC1=NC=C(C(=N1)N)OC=1C(=CC(=C(C(=N)NO)C1)OC)C(C)C | C15H20N6O3
